US04684653
2,4-Diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine
Alternatively, 0.48 g of 2,4-diamino-6-[2-(4-tert-butoxycarbonylphenyl)ethenyl]pyrido[2,3-d]pyrimidine was added to a saturated solution of hydrogen chloride in 20 mL of nitromethane at 0°. The reaction mixture quickly became viscous and turned a deep yellow color and after a few minutes of stirring, a granular solid formed. After 1 hour of stirring, 50 mL of ether were added and the precipitate was collected by filtration. The collected solid was dissolved in 50 mL of 10% aqueous sodium carbonate. Acidification with acetic acid then resulted in the separation of a yellow solid which was collected by filtration and dried under reduced pressure; yield 0.31 g (92%) of 2,4-diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine; NMR (Me2SO-d6) delta 6.75 (s, 2H), 7.35, 7.85 (AB q, 4H, J=9 Hz), 8.38 (s, 2H); IR (Nujol) 3400-2300, 3380, 3150, 1700, 1650, 1630, 1590 cm-1.

reactant | 2,4-diamino-6-[2-(4-tert-butoxycarbonylphenyl)ethenyl]pyrido[2,3-d]pyrimidine | 0.48 g | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)OC(C)(C)C)N | C20H21N5O2
reactant | hydrogen chloride | Cl | ClH
reactant | ether | 50 mL | CCOCC | C4H10O
solvent | nitromethane | 20 mL | [N+](=O)([O-])C | CH3NO2
product | 2,4-Diamino-6-[2-(4-carboxyphenyl)ethenyl]pyrido[2,3-d]pyrimidine | NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(C=C2)C(=O)O)N | C16H13N5O2
